US08022218B2
(f). (4,5-Difluoro-2-nitro-phenyl)-methanol
To a solution of to 4,5-difluoro-2-nitrobenzoic acid (25.9 g) in THF (90 ml), cooled to 0° C., was carefully added borane-tetrahydrofuran complex (319 ml, 1M in THF). After the addition was complete, the mixture was stirred at 60° C. for 3 h. Methanol (150 ml) was added to the mixture at 0° C. and after 10 minutes the mixture was concentrated in vacuo. The residue was poured into water and extracted with ethyl acetate. The organic layer was washed with sat. aq. NaCl, dried (MgSO4), filtered and concentrated in vacuo.

reactant | 4,5-difluoro-2-nitrobenzoic acid | 25.9 g | FC1=CC(=C(C(=O)O)C=C1F)[N+](=O)[O-] | C7H3F2NO4
reactant | borane tetrahydrofuran | 1M, 319 ml | B.O1CCCC1
reactant | Methanol | 150 ml | CO | CH4O
solvent | THF | 90 ml | C1CCOC1 | C4H8O
product | (4,5-Difluoro-2-nitro-phenyl)-methanol | FC1=CC(=C(C=C1F)CO)[N+](=O)[O-] | C7H5F2NO3
